### PR TITLE
[Merged by Bors] - feat: `Squarefree` lemmas for `Nat`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Squarefree.lean [hunk 1]
```diff
@@ -386,6 +392,38 @@ theorem squarefree_mul_iff {m n : ℕ} :
...
+
+lemma primeFactors_prod (hs : ∀ p ∈ s, p.Prime) : primeFactors (∏ p in s, p) = s := by
+  have hn : ∏ p in s, p ≠ 0 := prod_ne_zero_iff.2 fun p hp ↦ (hs _ hp).ne_zero
+  ext p
+  rw [mem_primeFactors_of_ne_zero hn, and_congr_right (fun hp ↦ hp.prime.dvd_finset_prod_iff _)]
+  refine' ⟨_, fun hp ↦ ⟨hs _ hp, _, hp, dvd_rfl⟩⟩
+  rintro ⟨hp, q, hq, hpq⟩
+  rwa [←((hs _ hq).dvd_iff_eq hp.ne_one).1 hpq]
+
+lemma primeFactors_div_gcd (hm : Squarefree m) (hn  : n ≠ 0) :
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Squarefree.lean:409]:
```suggestion
lemma primeFactors_div_gcd (hm : Squarefree m) (hn : n ≠ 0) :
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors d+

**Comment by YaelDillies** [comment]
bors merge
